US05686457
0.6 g of 4-chloro-5,6-dimethyl-7-benzyl-pyrrolo[2,3-d]pyrimidine and 0.28 ml of m-chloroaniline are heated at reflux in 10 ml of ethanol for 17 hours. The brown solution is concentrated to dryness by evaporation, the residue is taken up in ethyl acetate, and the ethyl acetate solution is washed until neutral with sodium hydrogen carbonate solution and water, dried and concentrated by evaporation. The residue is crystallised from ethyl acetate/hexane. 4-(m-Chloroanilino)-5,6-dimethyl-7-benzyl-pyrrolo[2,3-d]pyrimidine is obtained in the form of white crystals having a melting point of 132°-133° C.

reactant | 4-chloro-5,6-dimethyl-7-benzyl-pyrrolo[2,3-d]pyrimidine | 0.6 g | ClC=1C2=C(N=CN1)N(C(=C2C)C)CC2=CC=CC=C2 | C15H14ClN3
reactant | m-chloroaniline | 0.28 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(m-Chloroanilino)-5,6-dimethyl-7-benzyl-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)N(C(=C3C)C)CC3=CC=CC=C3)C=CC1 | C21H19ClN4
